US06734306B2
A. 3-[(tert-Butoxycarbonyl)amino]cyclohexanecarboxylic acid
To a suspension of 3-aminocyclohexanecarboxylic acid (0.72 g, 5.0 mmol) in dioxane-H2O (10 mL-5 mL) were added 1N aqueous NaOH (5.0 mL, 5.0 mmol) and di-tert-butyl dicarbonate (1.2 g , 5.3 mmol) at 0° C. The mixture was stirred for 1 day at room temperature, and concentrated in vacuo. The residue was diluted with H2O, acidified with 10% aqueous citric acid, and extracted with AcOEt. The extract was dried over MgSO4, and filtered. Removal of solvent gave a product (0.97 g, 76%) as a white solid.

reactant | 3-aminocyclohexanecarboxylic acid | 5.0 mmol, 0.72 g | NC1CC(CCC1)C(=O)O | C7H13NO2
reactant | NaOH | 5.0 mmol, 1N, 5.0 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 5.3 mmol, 1.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane H2O | 10 mL-5 mL | O1CCOCC1.O
product | 3-[(tert-Butoxycarbonyl)amino]cyclohexanecarboxylic acid | 0.97 g, 76% | C(C)(C)(C)OC(=O)NC1CC(CCC1)C(=O)O | C12H21NO4
